US07034039B2
A mixture of ethyl trifluoroacetate (0.038 mL, 0.31 mmol) and hydrazine monohydrate (0.026 mL, 0.50 mmol) in tetrahydrofuran (3 mL) was refluxed in a sealed tube for 1 h, the reaction was allowed to cool to room temperature. To the mixture were added tert-butyl{6-[amino(imino)methyl]-2-isobutyl-1-oxo-4-phenyl-1,2-dihydro-3-isoquinolinyl}methylcarbamate diacetate (0.14 g, 0.25 mmol) and sodium hydroxide (0.027 g, 0.55 mmol), and the resulting mixture was refluxed for 3 h. The reaction mixture was partitioned between water (10 mL) and ethyl acetate (30 mL). The organic layer was washed with water and brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel-column chromatography (n-hexane:ethyl acetate=3:1 (v/v)) to give tert-butyl{2-isobutyl-1-oxo-4-phenyl-6-[5-(trifluoromethyl)-1H-1,2,4-triazol-3-yl]-1,2-dihydro-3-isoquinolinyl}methylcarbamate (0.074 g, 55%) as a colorless powder.

reactant | ethyl trifluoroacetate | 0.31 mmol, 0.038 mL | FC(C(=O)OCC)(F)F | C4H5F3O2
reactant | hydrazine monohydrate | 0.50 mmol, 0.026 mL | O.NN
reactant | tert-butyl{6-[amino(imino)methyl]-2-isobutyl-1-oxo-4-phenyl-1,2-dihydro-3-isoquinolinyl}methylcarbamate diacetate | 0.25 mmol, 0.14 g | C(C)(=O)O.C(C)(=O)O.C(C)(C)(C)N(C(O)=O)CC=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)C(=N)N)=O)CC(C)C
reactant | sodium hydroxide | 0.55 mmol, 0.027 g | [OH-].[Na+]
reactant | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | tert-butyl{2-isobutyl-1-oxo-4-phenyl-6-[5-(trifluoromethyl)-1H-1,2,4-triazol-3-yl]-1,2-dihydro-3-isoquinolinyl}methylcarbamate | 0.074 g, 55% | C(C)(C)(C)OC(NCC=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)C1=NNC(=N1)C(F)(F)F)=O)CC(C)C)=O | C28H30F3N5O3
